US05691323
A mixture of 1-(1-(2-pyrazinyl)-ethyl)-4-oxopiperidine (37 mg), 4-(2-oxo-1-benzimidazolinyl)piperidine (41 mg), 1,2-dichloroethane (0.75 mL), glacial acetic acid (0.011 mL) and sodium triacetoxyborohydride (60 mg) was stirred at room temperature for 48 h. The reaction mixture was poured into dichloromethane (5 mL) and saturated aqueous Na2CO3 (3 mL) and the layers separated. The aqueous layer was extracted with dichloromethane (2×5 mL) and the combined organic layers dried over Na2SO4 and concentrated under reduced pressure. Purification by preparative TLC, eluting with chloroform; 10% methanol; 1% NH4OH, followed by trituration with diethyl ether gave 35 mg of (±)-1,3-dihydro-1-(1-{1-[1-(2-pyrazinyl)-1-ethyl]piperidin-4-yl}piperidin-4-yl)-2H-benzimidazol-2-one as a colorless solid: 1H NMR (400 MHz, CDCl3) 9.77 (br s, 1H), 8.69 (d, 1H), 8.54 (dd, 1H), 8.46 (d, 1H), 7.35 (m, 1H), 7.11-7.03 (m, 3H), 4.39 (m, 1H), 3.73 (q, 1H), 3.11 (m, 3H), 2.90 (m, 1H), 2.35-2.55 (m, 5H), 2.11 (m, 2H), 1.92-1.61 (m, 6H), 1.44 (d, 3H). Analysis calculated for C23H30N6O.0.1 H2O.0.3 CHCl3 : C: 63.01, H: 6.92, N: 18.92 found C: 63.07, H: 6.96, N: 18.76.

reactant | 1-(1-(2-pyrazinyl)-ethyl)-4-oxopiperidine | 37 mg | N1=C(C=NC=C1)C(C)N1CCC(CC1)=O | C11H15N3O
reactant | 4-(2-oxo-1-benzimidazolinyl)piperidine | 41 mg | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium triacetoxyborohydride | 60 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.011 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 0.75 mL | ClCCCl | C2H4Cl2
product | (±)-1,3-dihydro-1-(1-{1-[1-(2-pyrazinyl)-1-ethyl]piperidin-4-yl}piperidin-4-yl)-2H-benzimidazol-2-one | 35 mg | N1=C(C=NC=C1)C(C)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C23H30N6O
